US04075341
8-Methoxy-2-(m-methoxyphenyl)-5,6-dihydro-s-triazolo-[5,1-a]isoquinoline
The compound is prepared according to the procedure of Example 1 from 2-amino-6-methoxy-3,4-dihydro-1(2H)-isoquinolinone (prepared according to the procedure described in Belgian Pat. No. 780,885; m.p. 101°-3° C) and m-methoxybenzimidic acid ethyl ester; m.p. 132°-3° C.

reactant | 2-amino-6-methoxy-3,4-dihydro-1(2H)-isoquinolinone | NN1C(C2=CC=C(C=C2CC1)OC)=O | C10H12N2O2
reactant | m-methoxybenzimidic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)OC)=N | C10H13NO2
product | 8-Methoxy-2-(m-methoxyphenyl)-5,6-dihydro-s-triazolo-[5,1-a]isoquinoline | COC=1C=C2CCN3C(C2=CC1)=NC(=N3)C3=CC(=CC=C3)OC | C18H17N3O2
